US04698340
A mixture of ethyl 2-(4-nitrobenzoyl)-3-dimethylaminopropenoate (3 g), benzamidine hydrochloride (1.93 g) and triethylamine (2 ml) in n-butyl alcohol (30 ml) was refluxed for 30 min. The reaction mixture was poured into water (300 ml) and the precipitate was collected by filtration. The residue was recrystallized with diethyl ether to afford ethyl 4-(4-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate (3.1 g).

reactant | ethyl 2-(4-nitrobenzoyl)-3-dimethylaminopropenoate | 3 g | [N+](=O)([O-])C1=CC=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C1 | C14H16N2O5
reactant | benzamidine hydrochloride | 1.93 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | water | 300 ml | O | H2O
solvent | n-butyl alcohol | 30 ml | C(CCC)O | C4H10O
product | ethyl 4-(4-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylate | 3.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC(=NC=C1C(=O)OCC)C1=CC=CC=C1 | C19H15N3O4
